US08119692B2
4-(4-Chloro-phenyl)-4-methoxy-butan-1-ol (Intermediate E11)
To a solution of tert-butyl-[4-(4-chloro-phenyl)-4-methoxy-butoxy]-diphenyl-silane (343 mg, 0.75 mmol) in 20 mL THF was added at room temperature TBAF (7.5 mL, 7.5 mmol, 1M in THF). The mixture was stirred for 3 h and the reaction quenched by the addition of 10 mL saturated aqueous NH4Cl. The mixture was extracted with ethyl acetate (3×15 mL) and the combined organic layers washed with brine (2×10 mL) and dried over Na2SO4. The mixture was concentrated and the product isolated by flash column chromatography eluting with 6% to 60% ethyl acetate/hexane to provide 120 mg of the title compound.

reactant | tert-butyl-[4-(4-chloro-phenyl)-4-methoxy-butoxy]-diphenyl-silane | 0.75 mmol, 343 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCCC(OC)C1=CC=C(C=C1)Cl | C27H33ClO2Si
reactant | TBAF | 7.5 mmol, 1M, 7.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4-Chloro-phenyl)-4-methoxy-butan-1-ol | 120 mg | ClC1=CC=C(C=C1)C(CCCO)OC | C11H15ClO2
